US08633189B2
To a solution of 4-bromo-2-cyclopentyl-5-nitro-phenol (310 mg, 1.08 mmol) and Cs2CO3 (529 mg, 1.62 mmol) in DMF (2.0 mL) was added iodomethane (769 mg, 337 μL, 5.42 mmol) dropwise. The reaction was stirred at 50° C. under inert atmosphere for 16 h. The reaction was quenched with water and the aqueous layer was extracted with ethyl acetate. The organic layer was dried over Na2SO4 and concentrated. Purification by silica gel chromatography (0-20% ethyl acetate/hexane) provided 1-bromo-5-cyclopentyl-4-methoxy-2-nitrobenzene as a light yellow oil (288 mg, 89% yield). 1H NMR (400.0 MHz, DMSO-d6) 7.65 (d, J=6.6 Hz, 2H), 3.87 (s, 3H), 3.29-3.21 (m, 1H), 1.99-1.91 (m, 3H), 1.81-1.50 (m, 5H).

reactant | 4-bromo-2-cyclopentyl-5-nitro-phenol | 1.08 mmol, 310 mg | BrC1=CC(=C(C=C1[N+](=O)[O-])O)C1CCCC1 | C11H12BrNO3
reactant | Cs2CO3 | 1.62 mmol, 529 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | iodomethane | 5.42 mmol, 337 μL, 769 mg | IC | CH3I
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | 1-bromo-5-cyclopentyl-4-methoxy-2-nitrobenzene | 288 mg, 89% yield | BrC1=C(C=C(C(=C1)C1CCCC1)OC)[N+](=O)[O-] | C12H14BrNO3
